US08022099B2
(3SR,4RS)-3-(3,4-Dichloro-phenyl)-4-[(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amino]-pyrrolidine-1-carboxylic acid 3-cyano-propyl ester
To a stirred solution of (3SR,4RS)-3-(3,4-dichloro-phenyl)-4-[(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amino]-pyrrolidine-1-carboxylic acid 3-chloro-propyl ester (XVI-1) (40 mg, 0.068 mmol) in DMF (2 ml) was added potassium cyanide (5.0 mg, 0.077 mmol) and 18 crown 6-ether (18 mg, 0.068 mmol). The reaction mixture was stirred at 40° C. overnight, concentrated under vacuo. The product was purified by preparation HPLC to yield 18 mg (45%) of the title product as a colorless oil. ES-MS m/e: 532.1 (M+H+).

reactant | (3SR,4RS)-3-(3,4-dichloro-phenyl)-4-[(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amino]-pyrrolidine-1-carboxylic acid 3-chloro-propyl ester | 0.068 mmol, 40 mg | ClCCCOC(=O)N1CC(C(C1)N(C)CC1=CC(=C(C=C1)C(F)(F)F)F)C1=CC(=C(C=C1)Cl)Cl | C23H23Cl3F4N2O2
reactant | potassium cyanide | 0.077 mmol, 5.0 mg | [C-]#N.[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (3SR,4RS)-3-(3,4-Dichloro-phenyl)-4-[(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amino]-pyrrolidine-1-carboxylic acid 3-cyano-propyl ester | 18 mg, 45% | C(#N)CCCOC(=O)N1CC(C(C1)N(C)CC1=CC(=C(C=C1)C(F)(F)F)F)C1=CC(=C(C=C1)Cl)Cl | C24H23Cl2F4N3O2
